US05135938
a) Preparation of 2-(6-thiophenoxyhexylthio)-benzoic acid
Thiosalicylic acid (1.2 g, 0.008 mole) and 6-thio-phenoxyhexylbromide (2.5 g, 0.009 mole) are dissolved in dimethylformamide (50 ml) and the solution is stirred under argon. Potassium carbonate (1.5 g, 0.011 mole) is added carefully to the reaction. After the addition is complete the mixture is slowly warmed to 100° C. The solvents are evaporated, and the residue is dissolved in water, acidified with dilute hydrochloric acid, extracted with ethyl acetate, dried over anhydrous sodium sulfate, filtered, and evaporated. The residue is flash chromatographed on silica gel to give the desired product.

reactant | Thiosalicylic acid | 0.008 mole, 1.2 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | 6-thio-phenoxyhexylbromide | 0.009 mole, 2.5 g | S(C1=CC=CC=C1)CCCCCCBr | C12H17BrS
reactant | Potassium carbonate | 0.011 mole, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(6-thiophenoxyhexylthio)-benzoic acid | S(C1=CC=CC=C1)CCCCCCSC1=C(C(=O)O)C=CC=C1 | C19H22O2S2
